US04921851
In a mixture of 50 ml of ethanol and 7.1 ml of dioxane is dissolved 4.46 g of ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(4-tert-butoxycarbonylaminobutoxyimino)acetate, followed by addition of 7.1 ml of 2 N-aqueous sodium hydroxide solution. The mixture is stirred at room temperature for 10 hours. To this reaction mixture was added 500 ml of ether and the resulting precipitates are collected by filtration. The precipitate is dissolved in water and under ice-cooling the solution is adjusted to p 2 with 3 N-HCl and extracted with ethyl acetate. The extract is washed with aqueous sodium chloride solution and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. To the residue is added ether-petroleum ether (1:3) and the resulting light yellow powders are collected by filtration. The above procedure yields 4.01 g of 2-(2-tritylaminothiazol-4-yl)-(Z)- 2-(4-tert-butoxycarbonylaminobutoxyimino)acetic acid.

reactant | ethyl 2-(2-tritylaminothiazol-4-yl)-(Z)-2-(4-tert-butoxycarbonylaminobutoxyimino)acetate | 4.46 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCCCNC(=O)OC(C)(C)C | C35H40N4O5S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dioxane | 7.1 ml | O1CCOCC1 | C4H8O2
product | 2-(2-tritylaminothiazol-4-yl)-(Z)- 2-(4-tert-butoxycarbonylaminobutoxyimino)acetic acid | 4.01 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCCCCNC(=O)OC(C)(C)C | C33H36N4O5S
